US07186742B2
2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(hydroxyimino-methyl)-benzamide
A solution of 2-chloro-5-formyl-N-(1-hydroxy-cycloheptylmethyl)-benzamide (290 mg, 0.94 mmol), hydroxylamine hydrochloride (78 mg, 1.13 mmol) and sodium acetate (223 mg, 2.72 mmol) in methanol (5 mL) and water (5 mL) was stirred at room temperature for 3 h. The mixture was diluted with water and extracted with ethyl acetate. The combined organic layers were washed with water, and brine, dried over sodium sulfate, filtered and adsorbed onto silica gel. The residue was purified by chromatography (1:1 ethyl acetate-hexane) to afford the title compound (140 mg).

reactant | 2-chloro-5-formyl-N-(1-hydroxy-cycloheptylmethyl)-benzamide | 0.94 mmol, 290 mg | ClC1=C(C(=O)NCC2(CCCCCC2)O)C=C(C=C1)C=O | C16H20ClNO3
reactant | hydroxylamine hydrochloride | 1.13 mmol, 78 mg | Cl.NO
reactant | sodium acetate | 2.72 mmol, 223 mg | C(C)(=O)[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 2-Chloro-N-(1-hydroxy-cycloheptylmethyl)-5-(hydroxyimino-methyl)-benzamide | 140 mg | ClC1=C(C(=O)NCC2(CCCCCC2)O)C=C(C=C1)C=NO | C16H21ClN2O3
